US08034943B2
To 6-aminoisoquinoline in DMF at −40° C. was added NaH and solution was warmed to 0° C. for 30 minutes. Then benzylchloroformate was added and the reaction stirred at 0° C. for 2 hours. The solution was quenched with AcOH, poured into NaHCO3(sat) and extracted with EtOAc, dried (Na2SO4), filtered and evaporated. Flash chromatography (SiO2 90% EtOAc/Hex) gave benzylisoquinolin-6-ylcarbamate. (E87).

reactant | 6-aminoisoquinoline | NC=1C=C2C=CN=CC2=CC1 | C9H8N2
reactant | NaH | [H-].[Na+]
reactant | benzylchloroformate | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | DMF | CN(C)C=O | C3H7NO
product | benzylisoquinolin-6-ylcarbamate | C(C1=CC=CC=C1)OC(NC=1C=C2C=CN=CC2=CC1)=O | C17H14N2O2
